US08012974B2
[1-(2,2,2-Trifluoro-ethyl)-piperidin-3-yl]-carbamic acid tert-butyl ester (0.380 g, 1.3 mmol) was dissolved in 3 mL of dioxane. A 4 M solution of HCl in dioxane (3.3 mL, 13.3 mmol) was added and the resulting mixture was stirred overnight at RT before being evaporated to give racemic 1-(2,2,2-trifluoro-ethyl)-piperidin-3-ylamine hydrochloride.

reactant | [1-(2,2,2-Trifluoro-ethyl)-piperidin-3-yl]-carbamic acid tert-butyl ester | 1.3 mmol, 0.380 g | C(C)(C)(C)OC(NC1CN(CCC1)CC(F)(F)F)=O | C12H21F3N2O2
reactant | HCl | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 13.3 mmol, 3.3 mL | O1CCOCC1 | C4H8O2
product | racemic 1-(2,2,2-trifluoro-ethyl)-piperidin-3-ylamine hydrochloride | Cl.FC(CN1CC(CCC1)N)(F)F | InChI=1S/C7H13F3N2.ClH/c8-7(9,10)5-12-3-1-2-6(11)4-12;/h6H,1-5,11H2;1H
